US09388189B2
a) N-(3-Bromo-5-(methyl)phenyl)methanesulfonamide
3-Bromo-5-(methyl)aniline (2 g, 10.75 mmol) was treated with methanesulfonyl chloride (915 μl, 11.82 mmol) according to the method described in Preparation 15b to give 2.82 g (96% yield) of the title compound. Purity 95%.

reactant | 3-Bromo-5-(methyl)aniline | 10.75 mmol, 2 g | BrC=1C=C(N)C=C(C1)C | C7H8BrN
reactant | methanesulfonyl chloride | 11.82 mmol, 915 μl | CS(=O)(=O)Cl | CH3ClO2S
product | N-(3-Bromo-5-(methyl)phenyl)methanesulfonamide | 2.82 g, 96% yield | BrC=1C=C(C=C(C1)C)NS(=O)(=O)C | C8H10BrNO2S
